US06200991B1
2-chloro-1-phenyl-4,5,6,7-tetrahydro-2H-benzimidazole
A mixture of 2.3 g (0.0107 mol) of 1-phenyl-4,5,6,7-tetrahydro-2H-benzimidazol-2-one and 30 ml of POCl3 is stirred under reflux for 6 hours. The excess POCl3 is evaporated under vacuum and the residue is hydrolyzed with water and concentrated ammonium hydroxide. The mixture is extracted twice with methylene chloride, evaporated and the residue is purified by flash chromatography on silica with an 80:20 heptane/ethyl acetate eluent. 0.8 g of product is recovered. Yield=32.2%.

reactant | 1-phenyl-4,5,6,7-tetrahydro-2H-benzimidazol-2-one | 0.0107 mol, 2.3 g | C1(=CC=CC=C1)N1C(NC2=C1CCCC2)=O | C13H14N2O
reactant | POCl3 | 30 ml | O=P(Cl)(Cl)Cl | Cl3OP
product | 2-chloro-1-phenyl-4,5,6,7-tetrahydro-2H-benzimidazole | Yield=32.2% | ClC1NC2=C(N1C1=CC=CC=C1)CCCC2 | C13H15ClN2
